US06416746B1
a) 4-(2-Triethylsilanyl-ethoxy)-butanol
A 50 ml reaction flask was charged with 11.6 ml (100 mmol) of 1,4-butandiol-mono vinylether and a catalytic amount of divinyl-tetramethyl disiloxane platinum complex under inert atmosphere and heated to 60° C. 10.4 g (90 mmol) of triethylsilane was slowly added to the reaction flask through a dropping funnel. The exothermic reaction mixture was stirred at 75° C. for 18 hours, followed by distillation at 105° C. to 107° C./0.2 mbar over a 10 cm Vigreux column. This reaction yielded 15.2 g (66% of the theory) of a clear liquid. Purity according to gas chromatography was 98.7%.

reactant | 1,4-butandiol mono vinylether | 100 mmol, 11.6 ml | C(CCCO)O.C(=C)OC=C
reactant | triethylsilane | 90 mmol, 10.4 g | C(C)[SiH](CC)CC | C6H16Si
product | 4-(2-Triethylsilanyl-ethoxy)-butanol | C(C)[Si](CCOCCCCO)(CC)CC | C12H28O2Si
